US08058431B2
5) 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione
1.20 g (4.51 mmol) 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-one and 1.82 g (4.50 mmol) Lawesson's reagent (C14H14O2P2S4, Fluka) were dissolved in 20 ml toluene. The reaction mixture was boiled for 3 h. After evaporation the residue was further purified by column chromatography with silica, eluent dichloromethane/acetone 95/5.

reactant | 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-one | 4.51 mmol, 1.20 g | COC=1C=C2C(N=C(N(C2=CC1)C)C1=CC=CC=C1)=O | C16H14N2O2
reactant | Lawesson's reagent | 4.50 mmol, 1.82 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-thione | COC=1C=C2C(N=C(N(C2=CC1)C)C1=CC=CC=C1)=S | C16H14N2OS
